US07368578B2
To a mixture of methyl 6-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]-3-phenyl-1-benzofuran-2-carboxylate (32.70 g) and tetrahydrofuran (500 mL) was added dropwise diisobutylaluminum hydride (0.95M hexane solution, 235 mL) at 0° C. The reaction mixture was stirred at 0° C. for 2 hrs, sodium sulfate decahydrate (71.85 g) was added, and the mixture was stirred at room temperature for 30 min. The reaction mixture was diluted with ethyl acetate and the precipitate was filtered off. The filtrate was concentrated to give {6-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]-3-phenyl-1-benzofuran-2-yl}methanol as colorless crystals (27.80 g, yield 91%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 152-153° C.

reactant | methyl 6-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]-3-phenyl-1-benzofuran-2-carboxylate | 32.70 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC2=C(C(=C(O2)C(=O)OC)C2=CC=CC=C2)C=C1 | C27H21NO5
reactant | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
reactant | diisobutylaluminum hydride | 0.95M, 235 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium sulfate decahydrate | 71.85 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {6-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]-3-phenyl-1-benzofuran-2-yl}methanol | 27.80 g, yield 91% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC2=C(C(=C(O2)CO)C2=CC=CC=C2)C=C1 | C26H21NO4
